US05744488
Methyl 5-nitro-3-(3-pyridyl)-1H-indole-1-propanoate
Benzyltrimethylammonium hydroxide (0.17 ml of 40% solution in methanol) wasadded to a stirred suspension of 5-nitro-3-(3-pyridyl)-1H-indole (0.95 g) and methyl acrylate (0.41 g) in a mixture of tetrahydrofuran (10 ml) and dioxan (15 ml), and the mixture was stirred at room temperature for 2 hours. Methanol (10 ml) was added to give a clear solution followed by further methyl acrylate (0.41 g) and benzyltrimethylammonium hydroxide solution (0.17 ml) and stirring was continued for an additional 18 hours. Potassium t-butoxide (100 mg) was added and stirring was continued for a further 6 hours and the solution was evaporated. The residue was partitioned between ethyl acetate and water and the organic layer was separated and dried (MgSO,). Evaporation of the solvent gave a solid whichwas crystallised from dichloromethane/hexane to give the title compound (0.48 g), m.p. 123°-125° C. Found: C,62.85H,4.62; N,12.91. C17H15N3O4 requires: C,62.76; H,4.65; N,12.92%.

reactant | Benzyltrimethylammonium hydroxide | 0.17 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 5-nitro-3-(3-pyridyl)-1H-indole | 0.95 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)C=1C=NC=CC1 | C13H9N3O2
reactant | methyl acrylate | 0.41 g | C(C=C)(=O)OC | C4H6O2
reactant | methyl acrylate | 0.41 g | C(C=C)(=O)OC | C4H6O2
reactant | benzyltrimethylammonium hydroxide | 0.17 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | Potassium t-butoxide | 100 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
solvent | Methanol | 10 ml | CO | CH4O
product | Methyl 5-nitro-3-(3-pyridyl)-1H-indole-1-propanoate | 0.48 g | [N+](=O)([O-])C=1C=C2C(=CN(C2=CC1)CCC(=O)OC)C=1C=NC=CC1 | C17H15N3O4
